US07582773B2
Step 2: Synthesis of [4-(1-Benzyl-2,3-dimethyl-1H-indol-5-yl)-phenoxy]-acetic acid.
The desired product was prepared using a procedure similar to step 2 of example 4. Thus, [4-(1-benzyl-2,3-dimethyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester (0.230 g, 0.576 mmol) was reacted with 1N KOH (1.2 ml) in THF/MeOH (6 ml/4 ml) to give the product (0.139 g, 0.361 mmol, 63%) as an off-white solid, mp 203-206° C. 1H NMR (DMSO-d6) δ 2.24 (s, 3H), 2.27 (s, 3H), 4.68 (s, 2H), 5.38 (s, 2H), 6.95-6.99 (m, 4H), 7.20 (t, J=7.2 Hz, 1H), 7.25-7.29 (m, 3H), 7.37 (d, J=8.6 Hz, 1H), 7.58 (d, J=8.7 Hz, 2H), 7.62 (s, 1H), 13.00 (broad s, 1H); IR (solid) 3030, 2910, 1740, 1710, 1605, 1520, 1480, and 1240 cm−1; [ESI(−)], m/z 384 (M−H)—; Anal. Calcd. for C25H23NO3: C, 77.90; H, 6.01; N, 3.63; Found: C, 77.87; H, 5.99; N, 3.64.

reactant | [4-(1-benzyl-2,3-dimethyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester | 0.576 mmol, 0.230 g | COC(COC1=CC=C(C=C1)C=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C)C)=O | C26H25NO3
reactant | KOH | 1N, 1.2 ml | [OH-].[K+]
solvent | THF MeOH | 6 ml | C1CCOC1.CO
product | [4-(1-Benzyl-2,3-dimethyl-1H-indol-5-yl)-phenoxy]-acetic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(OCC(=O)O)C=C1)C)C | C25H23NO3
